US04434172
Synthesis of 2-(2-methoxyphenyl)-5-methylthiazolidine-4-one
A mixture of 13.6 g of o-anisaldehyde, 13.4 g of ethyl 2-mercaptopropionate and 6 g of ammonium carbonate in 250 ml of toluene was refluxed at 110° C. for 2 hours in a flask provided with a Dean-Stark apparatus while removing the distilled water. The crystals which separated out after leaving the reaction mixture for a night were collected by filtering and recrystallized from hot benzene to obtain the object, colourless prisms melting at 187° to 187.5° C. in an amount of 21 g corresponding to a yield of 94%.

reactant | o-anisaldehyde | 13.6 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | ethyl 2-mercaptopropionate | 13.4 g | SC(C(=O)OCC)C | C5H10O2S
reactant | ammonium carbonate | 6 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-methoxyphenyl)-5-methylthiazolidine-4-one | yield of 94% | COC1=C(C=CC=C1)C1SC(C(N1)=O)C | C11H13NO2S
